US09169261B2
Synthesis of 2-phenyl-oxazole-4-carboxylic acid
2-Phenyl-oxazole-4-carboxylic acid ethyl ester (500 mg, 2.30 mmol) was dissolved in a mixture of THF (2.3 mL) and MeOH (2.3 mL). To this was added NaOH (10% aqueous, 2.3 mL). The reaction mixture was stirred for 2 h, and was then diluted with EtOAc and washed with 1N HCl The aqueous layer was extracted with EtOAc and the combined organics were dried over Na2SO4, filtered and concentrated to give the product as a white solid (366 mg, 84%).

reactant | 2-Phenyl-oxazole-4-carboxylic acid ethyl ester | 2.30 mmol, 500 mg | C(C)OC(=O)C=1N=C(OC1)C1=CC=CC=C1 | C12H11NO3
reactant | NaOH | 2.3 mL | [OH-].[Na+]
solvent | THF | 2.3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.3 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-phenyl-oxazole-4-carboxylic acid | 366 mg, 84% | C1(=CC=CC=C1)C=1OC=C(N1)C(=O)O | C10H7NO3
